US07365061B2
Part III: Trans 3-amino-5-carboethoxymethoxy-2-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride
To a solution of trans 3-benzylamino-5-carboethoxymethoxy-2-hydroxy-1,2,3,4-tetrahydronaphthalene (10 g) in 95% aqueous ethanol (200 mL) was added dropwise concentrated aqueous hydrochloric acid solution to bring the pH to 6. Addition of 5% palladium on carbon was followed by hydrogenation on a Parr apparatus at 50 psi for 1 day. The mixture was filtered, rinsing the catalyst with 95% aqueous ethanol and methanol. The filtrate was evaporated to yield a residue. The residue was recrystallized from a mixture of methanol and absolute ethanol to provide the title product (5.2 g, m.p. 210-211° C.).

reactant | trans 3-benzylamino-5-carboethoxymethoxy-2-hydroxy-1,2,3,4-tetrahydronaphthalene | 10 g | C(C1=CC=CC=C1)N[C@H]1[C@@H](CC2=CC=CC(=C2C1)OCC(=O)OCC)O | C21H25NO4
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | Trans 3-amino-5-carboethoxymethoxy-2-hydroxy-1,2,3,4-tetrahydronaphthalene hydrochloride | 5.2 g | Cl.N[C@H]1[C@@H](CC2=CC=CC(=C2C1)OCC(=O)OCC)O | InChI=1S/C14H19NO4.ClH/c1-2-18-14(17)8-19-13-5-3-4-9-6-12(16)11(15)7-10(9)13;/h3-5,11-12,16H,2,6-8,15H2,1H3;1H/t11-,12-;/m1./s1
